US05106878
A solution of 24 g of 2-methylanisole, 35 g of N-bromosuccinimide and 1.24 g of dibenzoyl peroxide in 150 ml of carbon tetrachloride was heated to boiling under reflux for 12 hours. After cooling the solution was filtered and the filtrate is evaporated. The residue was recrystallized from hexane. There were obtained 18.6 g (47%) of 4-bromo-2-methylanisole as a colorless solid; m.p. 66°-68°.

reactant | 2-methylanisole | 24 g | CC1=C(C=CC=C1)OC | C8H10O
reactant | N-bromosuccinimide | 35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 1.24 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-bromo-2-methylanisole | 18.6 g, 47% | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
